US07812021B2
b) 6-{(SR)-1-[(3RS,4SR)-1-(4-Cyano-piperidine-1-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile
To a stirred solution of (3RS,4SR)-3-[(SR)-1-(5-Cyano-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride (30 mg, 0.070 mmol) in CH2Cl2 (4 mL) were added Et3N (0.015 mL, 0.11 mmol) and piperidine-4-carbonitrile (commercially available) (9 mg, 0.084 mmol). Stirring was continued overnight, and the reaction mixture was concentrated under vacuo and directly purified by flash chromatography (SiO2, EtOAc) to yield 24 mg (69%) the title compound as light yellow oil. ES-MS m/e: 498.0 (M+H+).

reactant | (3RS,4SR)-3-[(SR)-1-(5-Cyano-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride | 0.070 mmol, 30 mg | C(#N)C=1C=CC(=NC1)OC(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)Cl | C19H16Cl3N3O2
reactant | Et3N | 0.11 mmol, 0.015 mL | CCN(CC)CC | C6H15N
reactant | piperidine-4-carbonitrile | N1CCC(CC1)C#N | C6H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-{(SR)-1-[(3RS,4SR)-1-(4-Cyano-piperidine-1-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 24 mg, 69% | C(#N)C1CCN(CC1)C(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C#N)C=C1 | C25H25Cl2N5O2
